US04234736
A solution of 17.2 g (67.5 mmol) of N-[(4-fluorophenyl)-carbamoyl]-2-methylalanine methyl ester in 150 ml of 6-N aqueous hydrochloric acid and 50 ml of acetone was warmed on a steam bath for 2 hours. The mixture was then concentrated. The product, which had precipitated was dried at 40°/15 Torr and then recrystallized from toluene. The recrystallized product was dried at 50° C. for 20 hours, under greatly reduced pressure, to yield 3-(4-fluorophenyl)-5,5-dimethylhydantoin, m.p. 166°-167° C.

reactant | N-[(4-fluorophenyl)-carbamoyl]-2-methylalanine methyl ester | 67.5 mmol, 17.2 g | COC(C(NC(NC1=CC=C(C=C1)F)=O)(C)C)=O | C12H15FN2O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(4-fluorophenyl)-5,5-dimethylhydantoin | FC1=CC=C(C=C1)N1C(NC(C1=O)(C)C)=O | C11H11FN2O2
